US07098337B2
d) (R)-4-Methyl-3,4-dihydro-1H-2,4a,5-triaza-fluorene-2-carboxylic acid tert-butyl ester
This compound was prepared in analogy to Example 2 intermediate a), from (R)-4-methyl-1,2,3,4-tetrahydro-2,4a,5-triaza-fluorene, 4-(dimethylamino)pyridine and di tert-butyl dicarbonate.

reactant | (R)-4-methyl-1,2,3,4-tetrahydro-2,4a,5-triaza-fluorene | C[C@@H]1CNCC2=CC3=CC=CN=C3N12 | C11H13N3
reactant | di tert-butyl dicarbonate | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
catalyst | 4-(dimethylamino)pyridine | CN(C1=CC=NC=C1)C | C7H10N2
product | (R)-4-Methyl-3,4-dihydro-1H-2,4a,5-triaza-fluorene-2-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC2=CC3=CC=CN=C3N2[C@@H](C1)C | C16H21N3O2
